US06294532B1
A mixture of 7-benzyloxy-6-methoxy-3,4-dihydroquinazolin-4-one (2.82 g, 0.01 mol), thionyl chloride (40 ml) and DMF (0.28 ml) was stirred and heated at reflux for 1 hour. The mixture was evaporated and azeotroped with toluene to give 7-benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride (3.35 g). 7-Benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride (3.35 g) was dissolved in methylene chloride (250 ml) and washed with sodium hydrogen carbonate until the aqueous layer was adjusted to pH8. The organic layer was washed with brine, dried (MgSO4) and evaporated to give 7-benzyloxy-4-chloro-6-methoxyquinazoline (2.9 g, 96%).

reactant | 7-Benzyloxy-4-chloro-6-methoxyquinazoline hydrochloride | 3.35 g | Cl.C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC
solvent | methylene chloride | 250 ml | C(Cl)Cl | CH2Cl2
product | 7-benzyloxy-4-chloro-6-methoxyquinazoline | 2.9 g, 96% | C(C1=CC=CC=C1)OC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C16H13ClN2O2
